US05977152
(2R,3R)-3-[[Trans-2-[(E)-2-(4-chlorophenyl)vinyl]-1,3-dioxan-5-yl]thio]-2-(2,4-difluorophenyl)-1-(1H-1,2,4-triazol-1-yl)-2-butanol
In 14 ml of methylene chloride were dissolved 294 mg (0.82 mmol) of (2R,3R)-2-(2,4-difluorophenyl)-3-[(1,3-dihydroxy-2-propyl)thio]-1-(1H-1,2,4-triazol-1-yl)-2-butanol as described in Reference example 2 and 191 mg (1.15 mmol) of trans-4-chlorocinnamaldehyde [Bull. Chem. Soc. Japan 52 555 (1979)], and 233 mg (1.23 mmol) of p-toluenesulfonic acid monohydrate and 1.5 g of molecular sieves 4A were added thereto, followed by stirring of the resulting mixture for 1 hour and 15 minutes. An aqueous sodium hydrogencarbonate solution was added to the reaction mixture and the mixture was stirred for 10 minutes, followed by removal of the molecular sieves by filtration. The organic layers were collected and dried to distil off the solvent under reduced pressure. The thus obtained oil was subjected to column chromatography using 15 g of silica gel and eluted with a mixed solvent hexane-ethyl acetate (3:2) to obtain 280 mg (yield: 67%) of the desired title compound, trans isomer (A) as an oil. Further, the oil was eluted with a mixed solvent of hexane-ethyl acetate (1:1) to obtain 35 mg (yield: 8%) of the cis isomer (B) as an oil.

reactant | (2R,3R)-2-(2,4-difluorophenyl)-3-[(1,3-dihydroxy-2-propyl)thio]-1-(1H-1,2,4-triazol-1-yl)-2-butanol | 0.82 mmol, 294 mg | FC1=C(C=CC(=C1)F)[C@@](CN1N=CN=C1)([C@@H](C)SC(CO)CO)O | C15H19F2N3O3S
reactant | trans-4-chlorocinnamaldehyde | 1.15 mmol, 191 mg | ClC1=CC=C(/C=C/C=O)C=C1 | C9H7ClO
reactant | p-toluenesulfonic acid monohydrate | 1.23 mmol, 233 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 14 ml | C(Cl)Cl | CH2Cl2
product | (2R,3R)-3-[[Trans-2-[(E)-2-(4-chlorophenyl)vinyl]-1,3-dioxan-5-yl]thio]-2-(2,4-difluorophenyl)-1-(1H-1,2,4-triazol-1-yl)-2-butanol | 280 mg, yield: 67% | ClC1=CC=C(C=C1)/C=C/[C@@H]1OC[C@H](CO1)S[C@@H]([C@@](CN1N=CN=C1)(O)C1=C(C=C(C=C1)F)F)C | C24H24ClF2N3O3S
